US05202330
a) 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-[2-(methylthio)phenyl]-5-pyrimidinecarboxylic acid, ethyl ester
A mixture of 2-[[2-(methylthio)phenyl]methylene]-3-oxobutanoic acid, ethyl ester (2.0 g., 7.5 mmole), S-(4-methoxybenzyl)thiopseudourea, hydrochloride (1.76 g., 7.5 mmole) and sodium acetate (0.66 g. 8.0 mmole) in dimethylformamide (10 ml.) is stirred and heated at 70° for 6 hours. The cooled mixture is diluted with ether and washed with water, sodium bicarbonate, and brine. The dried solution is evaporated to give 3.0 g. of an oil. Flash chromatography using ethyl acetate:hexanes (1:4) gives 2.13 g. of 1,4-dihydro2-[[(4-methoxybenzyl)methyl]thio]-6-methyl-4-[2-(methylthio)phenyl]-5-pyrimidinecarboxylic acid, ethyl ester as a yellow oil.

reactant | 2-[[2-(methylthio)phenyl]methylene]-3-oxobutanoic acid, ethyl ester | 7.5 mmole, 2.0 g | CSC1=C(C=CC=C1)C=C(C(=O)OCC)C(C)=O | C14H16O3S
reactant | S-(4-methoxybenzyl)thiopseudourea, hydrochloride | 7.5 mmole, 1.76 g | Cl.COC1=CC=C(CSC(N)=N)C=C1
reactant | sodium acetate | 8.0 mmole, 0.66 g | C(C)(=O)[O-].[Na+]
reactant | 1,4-dihydro2-[[(4-methoxybenzyl)methyl]thio]-6-methyl-4-[2-(methylthio)phenyl]-5-pyrimidinecarboxylic acid, ethyl ester | COC1=CC=C(CCSC=2NC(=C(C(N2)C2=C(C=CC=C2)SC)C(=O)OCC)C)C=C1 | C24H28N2O3S2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-[2-(methylthio)phenyl]-5-pyrimidinecarboxylic acid, ethyl ester | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=C(C=CC=C1)SC)C(=O)OCC)C | C23H26N2O3S2
